US04866182
Preparation of 5-n-pentanoyl-4-methyl2(3H)oxazolone
Six grams (0.06 mol) of 4-methyl-2(3H)-oxazolone and 24.2 g (0.182 mol) aluminum chloride were suspended in 250 ml methylene chloride. To this mixture was added dropwise 8.3 g (0.069 mol) n-pentanoyl chloride. The mixture was stirred and refluxed 15 hours, cooled and poured into ice water. The methylene chloride layer was isolated, washed with sodium bicarbonate solution and water. The methylene chloride solution was dried and solvent evaporated to give a residue which was recrystallized two times from ethyletherpentane to give 4.3 g (39%) of title compound; m.p. 92°-94°.

reactant | 4-methyl-2(3H)-oxazolone | 0.06 mol, Six grams | CC=1NC(OC1)=O | C4H5NO2
reactant | aluminum chloride | 0.182 mol, 24.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | n-pentanoyl chloride | 0.069 mol, 8.3 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 5-n-pentanoyl-4-methyl2(3H)oxazolone | 4.3 g, 39% | C(CCCC)(=O)C1=C(NC(O1)=O)C | C9H13NO3
